US04045439
A suspension of ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate hydrochloride (1.164 g.) in water (10 ml.) and concentrated hydrochloric acid (1.0 ml.) was stirred at 0° C. in an ice-salt bath, and a solution of sodium nitrite (0.5 g.) in water (3 ml.) was added during 5 minutes, maintaining the temperature at 0°-5° C. The mixture was stirred for 10 minutes at 0° C., and then magnesium sulphate (0.020 g.), furan (20 ml.) and sodium acetate trihydrate (4 g.) were added. The reaction mixture was stirred vigorously, allowed to warm to room temperature and stirred vigorously for 48 hours. The mixture was extracted with ethyl acetate (4 × 100 ml.). The combined extracts were washed with water, dried (MgSO4), filtered, and evaporated under reduced pressure. The oily brown residue was dissolved in ethyl acetate and applied to a silica column (30 g., Kieselgel 60). Elution with ethyl acetate yielded ethyl 6-furyl-4-hydroxycinnolin-3-yl carboxylate, m.p. 198°-200° C.

reactant | ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate hydrochloride | 1.164 g | Cl.NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O
reactant | sodium nitrite | 0.5 g | N(=O)[O-].[Na+]
reactant | magnesium sulphate | 0.020 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | furan | 20 ml | O1C=CC=C1 | C4H4O
reactant | sodium acetate trihydrate | 4 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | hydrochloric acid | 1.0 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
product | ethyl 6-furyl-4-hydroxycinnolin-3-yl carboxylate | O1C(=CC=C1)C=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O | C15H12N2O4
